US07692005B2
Step 4: 2-Ethyl-5-methyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-phenyl]-amide
2-Ethyl-5-methyl-2H-pyrazole-3-carboxylic acid [3-(2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-phenyl]-amide (1.12 g, 2.89 mmol) and ethyl formate (0.700 mL, 8.67 mmol) were dissolved in anhydrous ethanol (5.78 mL). The resulting solution was treated in dropwise fashion with a 21 wt % solution of sodium ethoxide in ethanol (5.40 mL, 14.50 mmol). This reaction mixture was heated at 78° C. for 1 h, producing a black oil. Subsequently, the reaction mixture was cooled to room temperature, and then the reaction pH was adjusted to pH 1 with dropwise addition of 1M HCl(aq) causing the formation of a pale orange precipitate. The suspension was filtered yielding an orange solid as the pure product (0.609 g, 1.47 mmol, 57%).

reactant | 2-Ethyl-5-methyl-2H-pyrazole-3-carboxylic acid [3-(2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-phenyl]-amide | 2.89 mmol, 1.12 g | O=C1NC2=CC=C(C=C2C1)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=C(C1)C)CC | C22H20N4O3
reactant | ethyl formate | 8.67 mmol, 0.700 mL | C(=O)OCC | C3H6O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 5.78 mL | C(C)O | C2H6O
solvent | ethanol | 14.50 mmol, 5.40 mL | C(C)O | C2H6O
product | 2-Ethyl-5-methyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-phenyl]-amide | 1.47 mmol, 0.609 g, 57% | OC=C1C(NC2=CC=C(C=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=C(C1)C)CC)=O | C23H20N4O4
